US07714126B2
With a procedure similar to example 16 above, 2-(2-chloro-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide was prepared from 2-(2-chloro-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid and 6-morpholin-4-yl-pyridin-3-ylamine. LCMS calcd for C20H16ClF3N4O3 (m/e) 452, obsd 453 (M+H).

reactant | 2-(2-chloro-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid | ClC1=C(C=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H5ClF3NO3
reactant | 6-morpholin-4-yl-pyridin-3-ylamine | N1(CCOCC1)C1=CC=C(C=N1)N | C9H13N3O
product | 2-(2-chloro-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide | N1(CCOCC1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=C(C=CC=C1)Cl | C20H16ClF3N4O3
